US04929741
72 ml of n-butyllithium solution (1.6M in hexane) were added at -110° to a solution of 11.72 ml (0.115 mol) of ethyl propiolate in 195 ml of tetrahydrofuran/ether/hexane (4:2:1). The mixture was stirred at -110° for 20 minutes and then treated with 15.0 g (76.4 mmol) of 3,4,5-trimethoxybenzaldehyde in 30 ml of tetrahydrofuran. The mixture was thereafter stirred at -78° for 1.5 hours and treated at -30° with 100 ml of saturated ammonium chloride solution and 100 ml of ethyl acetate. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulphate and evaporated. The residue was chromatographed on 500 g of silica gel with ethyl acetate/hexane (1:1), whereafter there was obtained ethyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate.

reactant | n-butyllithium | 1.6M, 72 ml | C(CCC)[Li]
reactant | ethyl propiolate | 0.115 mol, 11.72 ml | C(C#C)(=O)OCC | C5H6O2
reactant | 3,4,5-trimethoxybenzaldehyde | 76.4 mmol, 15.0 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran ether hexane | 195 ml | O1CCCC1.CCOCC.CCCCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-hydroxy-4-(3,4,5-trimethoxyphenyl)-2-butynoate | OC(C#CC(=O)OCC)C1=CC(=C(C(=C1)OC)OC)OC | C15H18O6
